US09085539B2
Synthesis of 4-[3-[3-(trifluoromethyl)-4-cyanophenyl]-2-oxo-tetrahydro-pyrimidin-1(2H)-yl]-N-methyl-2-fluorobenzamide 1.3.1.
K2CO3 (109 mg, 0.79 mmol) and 1,3-dibromopropane (32 mkl, 0.32 mmol) were added to a solution of 4-[4-cyano-3-(trifluoromethyl)-phenylcarbamoylamino]-N-methyl-2-fluorobenzamide (100 mg, 0.26 mmol) 2 in DMF (2 ml). Mixture was stirred at 90° C. In 18 h another portion of K2CO3 (109 mg) and 1,3-dibromopropane (32 mkl) were added and stirring was continued at the same temperature. Addition was repeated by 2 more times. After the reaction was completed the mixture was evaporated in vacuo, the residue was dissolved in chloroform, washed with water, dried over Na2SO4, the solvent was evaporated. The product was isolated by colomn chromatography on SiO2 (eluent—AcOEt). LCMS (M+H)+ 421. 1H NMR (DMSO-d6, 400 MHz): 8.17 (br. m, 1H), 8.13 (d, J=8.4 Hz, 1H), 8.07 (d, J=2.0 Hz, 1H), 7.83 (dd, J1=8.4 Hz, J2=2.0 Hz, 1H), 7.62 (t, J=8.4 Hz, 1H), 7.38 (dd, J1=12.4 Hz, J2=2.0 Hz, 1H), 7.29 (dd, J1=8.4 Hz, J2=2.0 Hz, 1H), 3.90 (t, J=5.8 Hz, 2H), 3.81 (t, J=5.8 Hz, 2H), 2.77 (d, J=4.8 Hz, 3H), 2.21 (m, 2H).

reactant | K2CO3 | 0.79 mmol, 109 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-dibromopropane | 0.32 mmol | BrCCCBr | C3H6Br2
reactant | 4-[4-cyano-3-(trifluoromethyl)-phenylcarbamoylamino]-N-methyl-2-fluorobenzamide | 0.26 mmol, 100 mg | C(#N)C1=C(C=C(C=C1)NC(=O)NC1=CC(=C(C(=O)NC)C=C1)F)C(F)(F)F | C17H12F4N4O2
reactant | K2CO3 | 109 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-[3-[3-(trifluoromethyl)-4-cyanophenyl]-2-oxo-tetrahydro-pyrimidin-1(2H)-yl]-N-methyl-2-fluorobenzamide | FC(C=1C=C(C=CC1C#N)N1C(N(CCC1)C1=CC(=C(C(=O)NC)C=C1)F)=O)(F)F | C20H16F4N4O2
